US05574055
392 mg (3.5 mmol) of potassium t-butylate were added portionwise at -10° to a suspension of 278 mg (1.5 mmol) of 4-(4-oxo-cyclohexyl)-aniline and 370 mg (1.9 mmol) of toluene-4-sulfonylmethylisocyanide in 5 ml of 1,2-dimethoxyethane and 0.15 ml of ethanol. After stirring at -5° for 1 hour and at room temperature for a further 70 hours 25 ml of water and 10 ml of saturated sodium chloride solution were added and the mixture was extracted three times with 40 ml of dichloromethane each time. The organic phase was dried with sodium sulfate and concentrated. Chormatography over silica gel with ethyl acetate/hexane 1:2 gave 165 mg (56%) of 4-(4-cyano-cyclohexyl)-aniline with m.p. 132°-140°.

reactant | 4-(4-oxo-cyclohexyl)-aniline | 1.5 mmol, 278 mg | O=C1CCC(CC1)C1=CC=C(N)C=C1 | C12H15NO
reactant | toluene-4-sulfonylmethylisocyanide | 1.9 mmol, 370 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | water | 25 ml | O | H2O
reactant | sodium chloride | 10 ml | [Cl-].[Na+]
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
solvent | ethanol | 0.15 ml | C(C)O | C2H6O
product | 4-(4-cyano-cyclohexyl)-aniline | 165 mg, 56% | C(#N)C1CCC(CC1)C1=CC=C(N)C=C1 | C13H16N2
